US06437106B1
Preparation of Cis-3-(3-quinolyl)-2-propen-1-ol t-butyl carbonate
The solid cis-3-(3-quinolyl)-2-propen-1-ol (10.0 g, 54.1 mmol), di-t-butyl dicarbonate (17.6 g, 80.6 mmol, 1.5 equiv), toluene (43 g) and tetra-n-butylammonium hydrogensulfate (0.68 g, 2.0 mmol) were combined and stirred (mechanically) in a three-necked round-bottom flask. To this stirring mixture was slowly added an aqueous sodium hydroxide solution (28 g H2O and 7.0 g, NaOH) over 10 minutes. The temperature of the biphasic mixture warmed from 18° C. to 31° C. over 1.5 hours and was allowed to stir overnight at room temperature. The reaction was then diluted with toluene (33 mL) and water (19 mL). The layers were separated (aq. pH 12) and the organic was washed consecutively with water (1×28 mL) and 5% aq. NaCl (1×28 mL). The organic layer was then washed with an aqueous sodium chloride solution (7 g NaCl, 28 g H2O) before concentration under reduced pressure and a bath temperature of 50° C. The oil which resulted was dissolved in heptane (100 g) and concentrated by rotary evaporation (2×). The resulting residue was dissolved in 55 mL of heptane for crystallization. The product was collected at −5° C., washed with cold heptane (10 mL) and vacuum dried at room temperature to provide a white to off-white colored solid (13.6 g, 88.3%). Purity as determined by HPLC was 98.7%.

reactant | cis-3-(3-quinolyl)-2-propen-1-ol | 54.1 mmol, 10.0 g | N1=CC(=CC2=CC=CC=C12)\C=C/CO | C12H11NO
reactant | di-t-butyl dicarbonate | 80.6 mmol, 17.6 g, 1.5 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 28 g | [OH-].[Na+]
catalyst | tetra-n-butylammonium hydrogensulfate | 2.0 mmol, 0.68 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 33 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 19 mL | O | H2O
solvent | heptane | 100 g | CCCCCCC | C7H16
solvent | toluene | 43 g | C1(=CC=CC=C1)C | C7H8
product | Cis-3-(3-quinolyl)-2-propen-1-ol t-butyl carbonate | 13.6 g, 88.3% | N1=CC(=CC2=CC=CC=C12)\C=C/CO.C(C)(C)(C)OC([O-])=O | InChI=1S/C12H11NO.C5H10O3/c14-7-3-4-10-8-11-5-1-2-6-12(11)13-9-10;1-5(2,3)8-4(6)7/h1-6,8-9,14H,7H2;1-3H3,(H,6,7)/p-1/b4-3-;
